US06624159B2
Ethyl 8-((Benzylamino)methyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate [AV.7]
Sodium triacetoxyborohydride (1.0 g) is added to a stirred solution of ethyl 8-formyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate (Preparation 27, 515 mg), benzylamine (340 mg) and acetic acid (360 mg) in a mixture of ethanol/THF (10 mL, 1/1). The solution is stirred for 90 min. The solvents are evaporated. The residue is taken up in chloroform and is applied to a silica gel column which is eluted with 1-3% methanol/chloroform followed by 4% methanol/chloroform to afford 697 mg of the title compound which is crystallized from methanol/ether. Physical characteristics: 1H NMR (CDCl3) δ1.43, 2.47, 3.59, 3.72, 3.90, 4.26, 4.42, 7.34, 7.51, 8.23, 8.59. Anal. Found: C, 68.59; H, 6.65; N, 9.64.

reactant | Sodium triacetoxyborohydride | 1.0 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ethyl 8-formyl-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | 515 mg | C(=O)C=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)CN1CCOCC1 | C18H20N2O5
reactant | benzylamine | 340 mg | C(C1=CC=CC=C1)N | C7H9N
reactant | acetic acid | 360 mg | C(C)(=O)O | C2H4O2
solvent | ethanol THF | 10 mL | C(C)O.C1CCOC1
product | Ethyl 8-((Benzylamino)methyl)-4-hydroxy-6-(4-morpholinylmethyl)-3-quinolinecarboxylate | 697 mg | C(C1=CC=CC=C1)NCC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)CN1CCOCC1 | C25H29N3O4
